US06166050
[2-(Benzylamino)-3,4-dioxo-cyclobut-1-enyl]-L-phenylalanine methyl ester
To a stirred solution of [2-ethoxy-3,4-dioxo-cyclobut-1-enyl]-L-phenylalanine methyl ester (0.33 mmol, 100 mg) in absolute ethanol (3 mL) was added neat benzylamine (0.36 mmol, 39 mg; 40 μL) dropwise at room temperature. The resulting solution was stirred at room temperature overnight, during which a white solid precipitated out of solution. The volatiles were removed in vacuo and the residue was taken up in EtOAc and partitioned between EtOAc and water. The organics were dried (Na2SO4), concentrated in vacuo and purified by flash chromatography (SiO2 :EtOAc/hexane) to afford the title compound as a white solid (113 mg; 94%).

reactant | [2-ethoxy-3,4-dioxo-cyclobut-1-enyl]-L-phenylalanine methyl ester | 0.33 mmol, 100 mg | COC([C@@H](NC1=C(C(C1=O)=O)OCC)CC1=CC=CC=C1)=O | C16H17NO5
reactant | benzylamine | 0.36 mmol, 40 μL, 39 mg | C(C1=CC=CC=C1)N | C7H9N
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | [2-(Benzylamino)-3,4-dioxo-cyclobut-1-enyl]-L-phenylalanine methyl ester | 113 mg, 94% | COC([C@@H](NC1=C(C(C1=O)=O)NCC1=CC=CC=C1)CC1=CC=CC=C1)=O | C21H20N2O4
